US07041685B2
5-(3-Bromo-5-formyl-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole
A solution of 5-(3-bromo-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole (599 mg, 1.84 mmol) in tetrahydrofuran (10 mL) was added under argon over 20 min to a stirred solution of 1.5 M lithium diisopropylamide (1.3 mL, 1.95 mmol) and tetrahydrofuran (10 mL) in a dry ice/acetone bath, and it was stirred for 1 h. To the solution was then added dry DMF (1.5 mL, 19.4 mmol) dropwise and the solution was stirred for 30 min. The dry ice bath was replaced by an ice bath and the solution was stirred for 20 min. The ice bath was removed and the solution was quenched with methanol (10 mL) and then saturated sodium bicarbonate (3 mL). To the solution was added 1 N hydrochloric acid until the solution reach pH 3. The solution was extracted with dichloromethane (2×100 mL). The extracts were dried over sodium sulfate, filtered, and concentrated. The product was purified twice by column chromatography (dichloromethane) to yield 393 mg (60%) of the title compound as a light yellow solid. 1H NMR (DMSO-d6): 9.79 (s, 1H), 8.11 (dd, J=8.52, 2.13 Hz, 2H), 8.05 (s, 1H), 7.70 (dd, J=8.24, 2.06 Hz, 2H).

reactant | 5-(3-bromo-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole | 1.84 mmol, 599 mg | BrC1=C(OC=C1)C1=NC(=NO1)C1=CC=C(C=C1)Cl | C12H6BrClN2O2
reactant | lithium diisopropylamide | 1.95 mmol, 1.5 M, 1.3 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | DMF | 19.4 mmol, 1.5 mL | CN(C)C=O | C3H7NO
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-(3-Bromo-5-formyl-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole | 393 mg, 60% | BrC1=C(OC(=C1)C=O)C1=NC(=NO1)C1=CC=C(C=C1)Cl | C13H6BrClN2O3
